US08865736B2
2-(Chloromethyl)-4-ethyl-1,3-benzothiazole
A solution of 4-ethyl-1,3-benzothiazol-2-amine (1.0 g, 5.6 mmol, 1 equiv.) and KOH (7.4 g, 112.2 mmol, 20 equiv.) in 2-methoxy-ethanol (9 ml) and H2O (9 ml), was stirred under N2 and under reflux, for 20 h. After cooling at r.t., the mixture was poured into water (150 ml) and extracted with CH2Cl2 (2×40 ml). The aqueous phase was neutralised with conc. HCl and extracted again with CH2Cl2 (3×70 ml). The combined neutral extracts were washed with water (2×60 ml), dried (Na2SO4) and evaporated to dryness under reduced pressure. The yellow-green semi-solid residue (790 mg) was mixed with 2-chloro-1,1,1-trimethoxy ethane (1.62 g, 10.4 mmol) and the mixture was stirred, under N2, at 60° C., for 4 h. Volatiles were removed by evaporation under reduced pressure and the brown liquid residue was purified by column chromatography on silica, eluted with CH2Cl2/hexane (10% and 50%), to give a yellow liquid (406 mg, 34% yield over two steps). HPLC-MS (method 1): m/z 212 [M+H]+, Rt=5.00 min

reactant | 4-ethyl-1,3-benzothiazol-2-amine | 5.6 mmol, 1.0 g, 1 equiv. | C(C)C1=CC=CC2=C1N=C(S2)N | C9H10N2S
reactant | KOH | 112.2 mmol, 7.4 g, 20 equiv. | [OH-].[K+]
reactant | 2-chloro-1,1,1-trimethoxy ethane | 10.4 mmol, 1.62 g | ClCC(OC)(OC)OC | C5H11ClO3
solvent | 2-methoxy-ethanol | 9 ml | COCCO | C3H8O2
solvent | H2O | 9 ml | O | H2O
solvent | water | 150 ml | O | H2O
product | 2-(Chloromethyl)-4-ethyl-1,3-benzothiazole | 34% yield | ClCC=1SC2=C(N1)C(=CC=C2)CC | C10H10ClNS
